US05071876
Preparation of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-(2,6-dimethylphenyl)propanamide
2.6-bis-(1,1-Dimethylethyl)-4-mercaptophenol(1.19 g, 0.005 mole), N-(2,6-dimethylphenyl)-2-propenamide (0.87 g, 0.005 mole) and triethylamine (0.5 ml) in methanol (100 ml) were stirred at room temperature under argon for 12 hours. The solvent and triethylamine were removed on a rotary evaporator and the product purified by chromatography on silica. The solvents were removed and the product recrystallized from ethyl acetate/hexane, filtered and dried in vacuo to yield the title compound, m.p. ca. 142.5°-144° C.

reactant | 2.6-bis-(1,1-Dimethylethyl)-4-mercaptophenol | 0.005 mole, 1.19 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | N-(2,6-dimethylphenyl)-2-propenamide | 0.005 mole, 0.87 g | CC1=C(C(=CC=C1)C)NC(C=C)=O | C11H13NO
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-(2,6-dimethylphenyl)propanamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)NC1=C(C=CC=C1C)C | C25H35NO2S
